US04048180
Aqueous hydrogen peroxide (13 mls of 30% solution) was added over 2 hours to a solution of 5-(2-pyridyl)-pentan-1-yl acetate (13.0 gms) in acetic acid (50 mls) at 75° C. After 16 hours and mixture was heated to 95° C and paraformaldehyde (1.8 gms) was added. After a further 2 hours the solvent was evaporated in vacuo and the residual oil was added to acetic anhydride (50 mls) and heated at 95° C for 6 hours. The solvent was evaporated and the product was poured onto ice, neutralised with potassium carbonate and extracted into diethyl ether. Evaporation of the ether and distillation of the residual oil yielded 1-(2-pyridyl)-1,5-diacetoxy pentane, b.p. 140°-141° C/1 mm (8 gms; 40%). Characterised by the following spectral data:

reactant | hydrogen peroxide | 13 mls | OO | H2O2
reactant | 5-(2-pyridyl)-pentan-1-yl acetate | 13.0 gms | C(C)(=O)OCCCCCC1=NC=CC=C1 | C12H17NO2
reactant | paraformaldehyde | 1.8 gms | C=O | CH2O
reactant | acetic acid | 50 mls | C(C)(=O)O | C2H4O2
product | 1-(2-pyridyl)-1,5-diacetoxy pentane | N1=C(C=CC=C1)C(CCCCOC(C)=O)OC(C)=O | C14H19NO4
